** sch_path: /home/designer/shared/IPD413_202501/xschem/Ayudantias/Ayudantia_2/TB_OTA2_OL.sch
**.subckt TB_OTA2_OL
VDD VDD GND {VDD}
I0 Vibias VSS DC{ibias}
R3 VOUT Ve 100k m=1
V3 VCM VSS DC{VCM}
VSS VSS GND 0
C5 VIN VSS 3p m=1
R2 VIN Ve 1G m=1
R1 Ve VCM 2k m=1
C1 VOUT net1 {Cl} m=1
V4 vsen VCM sin(0 {VAC} {fin}) dc 0 ac 1
C4 vsen VIN 1 m=1
x1 VIN VCM VOUT VDD VSS Vibias OTA2_lv
**** begin user architecture code


*.param VDD = 3.3
.param Ibias = 100u
.param Pi = 3.14159265
.param wo = 2*Pi*60Meg
.csparam wo = {wo}

*.param VCM = 0.8
*.param VAC = 60m
.param VAC  = 10m
.param fin  = 9.765625e5

*.ic v(Vo) = 0

* OP Parameters & Singals to save
.save all

*.option temp = 125
*.option temp = -40
.option temp = 27





.lib cornerMOShv.lib mos_tt
.lib cornerMOSlv.lib mos_tt
*.lib cornerMOShv.lib mos_ff
*.lib cornerMOSlv.lib mos_ff
*.lib cornerMOShv.lib mos_ss
*.lib cornerMOSlv.lib mos_ss
*.lib cornerMOShv.lib mos_sf
*.lib cornerMOSlv.lib mos_sf
*.lib cornerMOShv.lib mos_fs
*.lib cornerMOSlv.lib mos_fs

.include /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/diodes.lib




.control
  set color0 = white
  *IPD413
 ac dec 200 1 1000Meg
 settype decibel VOUT
 *setplot ac1

 let phase_val = (180/PI)*cph(VOUT)
 let phase_margin_val = 180 + 180/PI*cph(VOUT)
 settype phase phase_val
 *meas ac PM find phase_margin_val when vdb(VOUT)=0
 meas ac PM find phase_val when vdb(VOUT)=0
 meas ac GM find vdb(vout) when vp(vout)=0
 *meas ac GM2 find vdb(vout) when vp(vout)=-180
 meas ac GBW WHEN vdb(VOUT)=0
 meas ac DCG find vdb(vout) at=1
 let DCG_BW = {DCG} - 3
 meas ac BW WHEN vdb(VOUT)={DCG_BW}

 let Av = 10^(DCG/20)
 print Av

 plot vdb(VOUT)
 plot phase_val
 plot phase_val vdb(VOUT)


 *wrdata /foss/designs/IPD413_2023_HW3_git/Data/data_phaseOTA1.dat phase_val
 *wrdata /foss/designs/IPD413_2023_HW3_git/Data/data_VdbOTA1.dat vdb(out)

 reset
  *DACI
  *ac dec 100 1 10G
  *setplot ac1
  *meas ac GBW when vdb(vout)=0
  *meas ac DCG find vdb(vout) at=1
  *meas ac PM find vp(vout) when vdb(vout)=0
  *print PM*180/PI
  *meas ac GM find vdb(vout) when vp(vout)=0

  *plot vdb(vout)
  *plot {vp(vout)*180/PI}
  *plot vdb(vout) {vp(vout)*180/PI}
.endc


.end





.param VDD = 1.2
.param VCM = 0.6

.control
reset
  op
  setplot op1
  unset filetype
  * VM1
  let VsdM1 = v(x1.VA) - v(x1.VB)
  let VsgM1 = v(x1.VA) - v(VCM)
  let VthM1 = @n.x1.xm1.nsg13_lv_pmos[vth]
  let VovM1 = VsgM1 - VthM1
  let gmM1 = @n.x1.xm1.nsg13_lv_pmos[gm]
  let gdsM1 = @n.x1.xm1.nsg13_lv_pmos[gds]
  let RoM1 = 1/gdsM1
  * VM2
  let VsdM2 = v(x1.VA) - v(x1.VC)
  let VsgM2 = v(x1.VA) - v(VIN)
  let VthM2 = @n.x1.xm2.nsg13_lv_pmos[vth]
  let VovM2 = VsgM2 - VthM2
  let gmM2 = @n.x1.xm2.nsg13_lv_pmos[gm]
  let gdsM2 = @n.x1.xm2.nsg13_lv_pmos[gds]
  let RoM2 = 1/gdsM2
  * VM3
  let VdsM3 = v(x1.VB) - v(VSS)
  let VthM3 = @n.x1.xm3.nsg13_lv_nmos[vth]
  let gmM3 = @n.x1.xm3.nsg13_lv_nmos[gm]
  let gdsM3 = @n.x1.xm3.nsg13_lv_nmos[gds]
  let RoM3 = 1/gdsM3
  * VM4
  let VdsM4 = v(x1.VC) - v(VSS)
  let VgsM4 = v(x1.VB) - v(VSS)
  let VthM4 = @n.x1.xm4.nsg13_lv_nmos[vth]
  let VovM4 = VgsM4 - VthM4
  let gmM4 = @n.x1.xm4.nsg13_lv_nmos[gm]
  let gdsM4 = @n.x1.xm4.nsg13_lv_nmos[gds]
  let RoM4 = 1/gdsM4
  * VM5

  let VsdM5 = v(VDD) - v(x1.VA)
  let VsgM5 = v(VDD) - v(Vibias)
  let VthM5 = @n.x1.xm5.nsg13_lv_pmos[vth]
  let VovM5 = VsgM5 - VthM5
  let gmM5 = @n.x1.xm5.nsg13_lv_pmos[gm]
  let gdsM5 = @n.x1.xm5.nsg13_lv_pmos[gds]
  let RoM5 = 1/gdsM5
  * VM6
  let VdsM6 = v(VOUT) - v(VSS)
  let VgsM6 = v(x1.VC) - v(VSS)
  let VthM6 = @n.x1.xm6.nsg13_lv_nmos[vth]
  let VovM6 = VgsM6 - VthM6
  let gmM6 = @n.x1.xm6.nsg13_lv_nmos[gm]
  let gdsM6 = @n.x1.xm6.nsg13_lv_nmos[gds]
  let CggM6 = @n.x1.xm6.nsg13_lv_nmos[cgg]
  let RoM6 = 1/gdsM6
  * VM7
  let VsdM7 = v(VDD) - v(VOUT)
  let VsgM7 = v(VDD) - v(Vibias)
  let VthM7 = @n.x1.xm7.nsg13_lv_pmos[vth]
  let VovM7 = VsgM7 - VthM7
  let gmM7 = @n.x1.xm7.nsg13_lv_pmos[gm]
  let gdsM7 = @n.x1.xm7.nsg13_lv_pmos[gds]
  let RoM7 = 1/gdsM7
  * VM8
  let VsdM8 = v(VDD) - v(Vibias)
  let VthM8 = @n.x1.xm8.nsg13_lv_pmos[vth]
  let VovM8 = VsdM8 - VthM8
  let gmM8 = @n.x1.xm8.nsg13_lv_pmos[gm]
  let gdsM8 = @n.x1.xm8.nsg13_lv_pmos[gds]
  let RoM8 = 1/gdsM8
  * VMR
  let VdsMR = v(x1.VC) - v(x1.VsMR)
  let gdsMR = @n.x1.xm9.nsg13_lv_nmos[gds]
  let RoMR = 1/gdsMR

  let Cc2 = gmM2/{wo}
  let Rc = 1/gmM6

  let Av1 = gmM1/(gdsM2+gdsM4)
  let Av2 = gmM6/(gdsM7+gdsM6)
  let Av = Av1*Av2
  let BW = (gdsM2+gdsM4)/(2*pi*Av2*{Cc})
  *let w1 = 1/((gdsM2+gdsM4)*gmM6*(gdsM6+gdsM7)*{Cc})
  *let w22 = gmM6/(CggM6+{Cl})
  *let w2 = gmM6/(({Cl})*(1+CggM6/{Cc}))
  let w2 = gmM6/(2*pi*({Cl})*(1+CggM6/{Cc}))
  let GBW = gmM1/(2*pi*{Cc})
  *let GBW2 = gmM1/{Cc}
  let DCG = 20*log10(Av)
  *let fnd = gmM6/(2*pi*{Cl})

  print Av1 Av2 Av DCG
  print BW GBW w2
  print Rc Cc2

  write TB_OTA2_OL.raw
.endc

.end




.param temp=27

.param m_M8 = 180
.param m_M7 = 1800
.param m_M5 = 540
.param w_M8 =10u
.param w_M7 =10u
.param w_M5 =10u
.param l_M875 = 5u

.param m_M12 = 150
.param w_M12 =0.6u
.param l_M12 = 0.5u

.param m_M34 = 150
.param w_M34 =0.2u
.param l_M34 = 5u

.param m_M6 = 250
.param w_M6 =0.15u
.param l_M6 = 0.13u

.param m_R = 4
.param w_R =10u
.param l_R = 0.13u

.param Cc = 3p
.param Cl = 5p
.csparam Cl = {Cl}
.csparam Cc = {Cc}






**** end user architecture code
**.ends

* expanding   symbol:  ../Ayudantia_2/OTA2_lv.sym # of pins=6
** sym_path: /home/designer/shared/IPD413_202501/xschem/Ayudantias/Ayudantia_2/OTA2_lv.sym
** sch_path: /home/designer/shared/IPD413_202501/xschem/Ayudantias/Ayudantia_2/OTA2_lv.sch
.subckt OTA2_lv IN_N IN_P OUT VDD VSS Vibias
*.ipin IN_N
*.ipin IN_P
*.ipin Vibias
*.opin OUT
*.iopin VDD
*.iopin VSS
XM1 VB IN_N net1 VA sg13_lv_pmos w={w_M12} l={l_M12} ng=1 m={m_M12}
XM3 VB VB VSS VSS sg13_lv_nmos w={w_M34} l={l_M34} ng=1 m={m_M34}
XM2 VC IN_P net2 VA sg13_lv_pmos w={w_M12} l={l_M12} ng=1 m={m_M12}
XM4 net6 VB VSS VSS sg13_lv_nmos w={w_M34} l={l_M34} ng=1 m={m_M34}
XM5 net7 Vibias VDD VDD sg13_lv_pmos w={w_M5} l={l_M875} ng=1 m={m_M5}
XM6 net3 VC VSS VSS sg13_lv_nmos w={w_M6} l={l_M6} ng=1 m={m_M6}
XM7 net5 Vibias VDD VDD sg13_lv_pmos w={w_M7} l={l_M875} ng=1 m={m_M7}
XM8 net8 Vibias VDD VDD sg13_lv_pmos w={w_M8} l={l_M875} ng=1 m={m_M8}
C1 VC net4 {Cc} m=1
Vmeas VA net1 0
.save i(vmeas)
Vmeas1 VC net6 0
.save i(vmeas1)
Vmeas2 VA net2 0
.save i(vmeas2)
Vmeas3 net4 net3 0
.save i(vmeas3)
Vmeas4 net5 net4 0
.save i(vmeas4)
Vmeas5 net7 VA 0
.save i(vmeas5)
Vmeas6 net8 Vibias 0
.save i(vmeas6)
Vmeas7 net4 OUT 0
.save i(vmeas7)
.ends

.GLOBAL GND
.end
